US07183287B2
Preparation of (±)3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-N-[(2S)-2,3-dihydroxypropyl]-4-methylbenzamide.
To a solution of 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoic acid (0.3 g, 0.65 mmol) in dimethylformamide (3.0 mL) at −10° C. was added isobutylchloroformate (0.13 g, 0.92 mmol) followed by the addition of N-methylmorpholine (0.130 g, 1.28 mmol). The mixture was stirred for 10 min. under argon atmosphere. The reaction mixture was then stirred at room temperature for 30 min, cooled to 0° C., and added S-3-amino-1,2 propanediol (0.118 g, 1.3 mmol). The resulting mixture was stirred at room temperature for 1.5 h, concentrated in vacuo, and the residue was purified by reverse-phase HPLC using 10–90% CH3CN/Water gradient (40 min) at a flow rate of 80 mL/min. The appropriate fractions (MH+, m/z=538) were combined, and freeze-dried to give a white solid. This was dissolved in dichloromethane (20 mL), washed successively with 5% sodium bicarbonate (2×15 mL), water (2×20 mL), dried (Na2SO4), and concentrated to dryness to afford the racemic title compound (0.15 g, 43%) as a white amorphous substance: 1H NMR (CD3OD/400 MHz) δ 7.89 (dd 1H, J=1.6 Hz, 8.0 Hz), 7.66 (d, 1H, J=1.6 Hz), 7.60 (m, 1H), 7.52 (d, 1H, J=8.0 Hz), 7.01 (m, 2H), 5.54 (abq, 2H), 3.77 (m, 1H), 3.51 (m,3H), 3.38 (m, 1H), 2.74 (s, 3H), and 2.11(s, 3H); ES-HRMS m/z 538.0782 (M+H calcd for C23H23N3O5F2Br requires 538.0784). 19F NMR(CD3OD/400 MHz) −111.85(m) and −115.91 (m).

reactant | 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoic acid | 0.65 mmol, 0.3 g | BrC1=C(N=C(N(C1=O)C=1C=C(C(=O)O)C=CC1C)C)OCC1=C(C=C(C=C1)F)F | C20H15BrF2N2O4
reactant | isobutylchloroformate | 0.92 mmol, 0.13 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-methylmorpholine | 1.28 mmol, 0.130 g | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (±)3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-N-[(2S)-2,3-dihydroxypropyl]-4-methylbenzamide | 0.15 g, 43% | BrC1=C(N=C(N(C1=O)C=1C=C(C(=O)NC[C@@H](CO)O)C=CC1C)C)OCC1=C(C=C(C=C1)F)F | C23H22BrF2N3O5
